US07534789B2
Salt precursor 7: 8-{2-[1,1-dimethyl-3-(2-oxo-benzoxazol-3-yl)-propylamino]-1-hydroxy-ethyl}-6-hydroxy-4H-benzo[1,4]oxazin-3-one
This is prepared according to General Method 1 from 357 mg (1 mmol) 6-benzyloxy-8-(2-ethoxy-1,2-dihydroxy-ethyl)-4H-benzo[1,4]oxazin-3-one and 220 mg (1 mmol) 3-(3-amino-3-methyl-butyl)-3H-benzoxazol-2-one. Yield: 227 mg (42%, trifluoroacetate); mass spectroscopy: [M+H]+=428.

reactant | 6-benzyloxy-8-(2-ethoxy-1,2-dihydroxy-ethyl)-4H-benzo[1,4]oxazin-3-one | 1 mmol, 357 mg | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(C(O)OCC)O | C19H21NO6
reactant | 3-(3-amino-3-methyl-butyl)-3H-benzoxazol-2-one | 1 mmol, 220 mg | NC(CCN1C(OC2=C1C=CC=C2)=O)(C)C | C12H16N2O2
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 8-{2-[1,1-dimethyl-3-(2-oxo-benzoxazol-3-yl)-propylamino]-1-hydroxy-ethyl}-6-hydroxy-4H-benzo[1,4]oxazin-3-one | CC(CCN1C(OC2=C1C=CC=C2)=O)(C)NCC(O)C2=CC(=CC=1NC(COC12)=O)O | C22H25N3O6
